US05643878
a) 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(m-fluorophenylmethyl)-dihydrofuran-2-(3H)-one
Analogously to Example 21 D) 1)c), 5.0 g (16.37 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-dihydrofuran-2-(3H)-one [Example 21 D) 1)b)] dissolved in 75 ml of THF are deprotonated at -75° C. with 32.7 ml of lithium bis(trimethylsilyl)amide 1M in THF and alkylated starting at -75° C. with 3.4 g (18.0 mmol) of 3-fluorobenzyl bromide (Fluka; Buchs/Switzerland) (warming up during 60 min up to max. -50° C.). Column chromatography (SiO2, hexane/ethyl acetate 3:1) yields the title compound: TLC Rf (D)=0.6; tRet (I)=17.2 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-dihydrofuran-2-(3H)-one | 16.37 mmol, 5.0 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1CCC(O1)=O | C17H23NO4
reactant | lithium bis(trimethylsilyl)amide | 1M, 32.7 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-fluorobenzyl bromide | 18.0 mmol, 3.4 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(m-fluorophenylmethyl)-dihydrofuran-2-(3H)-one | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC(=CC=C1)F | C24H28FNO4
